US05006522
11-[4-[2-[(Diethylamino)methyl]-1-piperidinyl]but-2-ynyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example (1b) from 5,11-dihydro-11-(prop-2-ynyl)-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one, paraformaldehyde and 2-[(diethylamino)methyl]piperidine in a yield of 28% of theory. Colourless crystals, m.p. 132°-134° C.

reactant | 5,11-dihydro-11-(prop-2-ynyl)-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | C(C#C)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H11N3O
reactant | paraformaldehyde | C=O | CH2O
reactant | 2-[(diethylamino)methyl]piperidine | C(C)N(CC)CC1NCCCC1 | C10H22N2
product | 11-[4-[2-[(Diethylamino)methyl]-1-piperidinyl]but-2-ynyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 28% | C(C)N(CC)CC1N(CCCC1)CC#CCN1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C26H33N5O
